US06521643B1
To a solution of 4-tert-butyldimethylsilyloxybromobenzene (11.49 g) in tetrahydrofuran (100 ml) was added a solution of n-butyllithium in n-hexane (1.59M, 32.7 ml) dropwise at −55° C. under a nitrogen atmosphere, and the mixture was stirred for 1 hour at −60° C. To the reaction mixture was added triisopropyl borate (12.84 ml), and the mixture was stirred at −60° C. for 1 hour. The reaction mixture was warmed to ambient temperature, poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The solid was triturated with n-hexane, filtered and washed with n-hexane to give 4-tert-butyldimethylsilyloxyphenylboronic acid (7.45 g).

reactant | 4-tert-butyldimethylsilyloxybromobenzene | 11.49 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)Br | C12H19BrOSi
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 12.84 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.59M, 32.7 ml | CCCCCC | C6H14
product | 4-tert-butyldimethylsilyloxyphenylboronic acid | 7.45 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
